US05387685
5-[[(4-Methylphenyl)thio]methyl]-1,3-benzodioxole
To a solution of 28.5 g of p-thiocresol in 250 mL of water is added 8.8 g of sodium hydroxide. The solution is heated on a steam bath briefly with vigorous stirring and then cooled to room temperature. To this solution is added 250 of toluene, 39.7 g of a 50 % by weight solution of 3,4-methylenedioxybenzyl chloride in methylene chloride and 3.3 g of tetrabutylammonium chloride. This solution is stirred at room temperature for one hour and then 4.4 g of sodium hydroxide is added. The resulting solution is stirred at room temperature overnight and then partitioned. The organic layer is washed with 1N sodium hydroxide, brine, and dried over sodium sulfate. The solvent is removed at reduced pressure and the residual brown oil is purified via column chromatography using hexane/chloroform (2:1). This affords 24 g of the desired product as a clear oil.

reactant | p-thiocresol | 28.5 g | CC1=CC=C(C=C1)S | C7H8S
reactant | sodium hydroxide | 8.8 g | [OH-].[Na+]
reactant | toluene | C1(=CC=CC=C1)C | C7H8
reactant | 3,4-methylenedioxybenzyl chloride | C1OC=2C=C(CCl)C=CC2O1 | C8H7ClO2
reactant | sodium hydroxide | 4.4 g | [OH-].[Na+]
solvent | water | 250 mL | O | H2O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
catalyst | tetrabutylammonium chloride | 3.3 g | [Cl-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | 5-[[(4-Methylphenyl)thio]methyl]-1,3-benzodioxole | CC1=CC=C(C=C1)SCC1=CC2=C(OCO2)C=C1 | C15H14O2S
